US07173038B1
Using an analogous procedure to that described in Example 9, 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(4-chloro-2,6-difluoroanilino)-6-methoxyquinazoline (95 mg, 0.2 mmol) in methylene chloride (2 ml) was treated with TFA (800 μl) to give 4-(4-chloro-2,6-difluoroanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline (20 mg, 26%).

reactant | 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(4-chloro-2,6-difluoroanilino)-6-methoxyquinazoline | 0.2 mmol, 95 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=NC=NC2=C1)NC1=C(C=C(C=C1F)Cl)F)OC | C26H29ClF2N4O4
reactant | TFA | 800 μl | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-chloro-2,6-difluoroanilino)-6-methoxy-7-(piperidin-4-ylmethoxy)quinazoline | 20 mg, 26% | ClC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCC2CCNCC2)C(=C1)F)F | C21H21ClF2N4O2
